US04990515
A suspension of 5.75 g of 8-chloro-3-ethoxycarbonyl-7-fluoro-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine in 60 cm3 of 17.5% hydrochloric acid is heated, with stirring, at a temperature close to 100° C. for 30 minutes. After cooling to about 20° C., the insoluble matter is drained and washed with 3 times 20 cm3 of ethanol and 3 times 20 cm3 of diethyl ether. 3.05 g of 8-chloro-7-fluoro- 4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine-3-carboxylic acid are obtained in the form of a beige solid which decomposes at 416° C.

reactant | 8-chloro-3-ethoxycarbonyl-7-fluoro-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine | 5.75 g | ClC=1C(=CC=2C(=NC=3NC=C(C(C3C2)=O)C(=O)OCC)C1)F | C15H10ClFN2O3
solvent | hydrochloric acid | 60 cm3 | Cl | ClH
product | 8-chloro-7-fluoro- 4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine-3-carboxylic acid | 3.05 g | ClC=1C(=CC=2C(=NC=3NC=C(C(C3C2)=O)C(=O)O)C1)F | C13H6ClFN2O3
